US06242450B1
1-(3-(indol-4-yloxy)prop-1-yl)-4-hydroxy-4-(isoquinolin-4-yl)piperidine
Beginning with 0.184 gm (0.88 mMol) 3-chloropropyl indol-4-yl ether and 0.200 gm (0.88 mMol) 4-hydroxy-4-(isoquinolin-4-yl)piperidine, 0.169 gm (48%) of the title compound were recovered as a light yellow solid.

reactant | 3-chloropropyl indol-4-yl ether | 0.88 mMol, 0.184 gm | N1C=CC2=C(C=CC=C12)OCCCCl | C11H12ClNO
reactant | 4-hydroxy-4-(isoquinolin-4-yl)piperidine | 0.88 mMol, 0.200 gm | OC1(CCNCC1)C1=CN=CC2=CC=CC=C12 | C14H16N2O
product | 1-(3-(indol-4-yloxy)prop-1-yl)-4-hydroxy-4-(isoquinolin-4-yl)piperidine | 0.169 gm, 48% | N1C=CC2=C(C=CC=C12)OCCCN1CCC(CC1)(C1=CN=CC2=CC=CC=C12)O | C25H27N3O2
